US08492425B2
N′-(5-methoxynaphthalen-2-yl)acetohydrazide
The hydrazine chlorhydrate (1.55 g, 6.9 mmol) was suspended in water (25 ml), K2CO3 (1 g) and ethyl acetate (25 ml) were added and it was energically shaken during 30 minutes. The phases were separated, the organic phase was washed with water, dried over Na2SO4, filtered, and evaporated to dryness resulting in 1.26 g of hydrazine base in a dark solid form. This solid was dissolved in anhydrous toluene (25 ml) and acetic anhydride (0.75 g, 7.4 mmol) was added keeping at stirring during 1 hr. Subsequently, petroleum ether was added and was left to rest in the fridge during 2 hrs. It was filtered and washed with more petroleum ether resulting, once dried, in 1.1 g (71%) of N′-(5-methoxynaphthalen-2-yl)acetohydrazide in the form of a reddish coloured solid, with a purity of 94% (HPLC).

reactant | hydrazine | NN | H4N2
reactant | K2CO3 | 1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
reactant | acetic anhydride | 7.4 mmol, 0.75 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 25 ml | O | H2O
product | N′-(5-methoxynaphthalen-2-yl)acetohydrazide | COC1=C2C=CC(=CC2=CC=C1)NNC(C)=O | C13H14N2O2
